2141-10-25 07:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Tachycardia
   24 Hour Events:
 EKG - At [**2141-10-25**] 01:11 AM
   -Started on Diltiazem drip 5mg/hour, rate control initially achieved
   (HR in 90s from 4-6am), however became more agitated starting around
   6am, HR increased to 130s
   -Patient continued to be more agitated, recieved Haldol 2.5mg IV x 1
   dose at 6:30am
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical records; No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2141-10-25**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-25**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 135 (92 - 135) bpm
   BP: 134/66(80) {106/59(72) - 138/109(116)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    192 mL
                                                                    337 mL
   PO:
             TF:
   IVF:
                                                                    192 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                      0 mL
   Urine:
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 94%
   ABG: ///23/
   Physical Examination
   Gen: Elderly, slender Caucasian male, primarily Yiddish speaking in NAD
   HEENT :Normocephalic, atraumatic, no conjunctival pallor, no scleral
   icterus, PERRL/EOMI, MMM, no LAD, no thyromegaly. Cardiac: Irregular
   rhythm, tachycardic, no murmurs/rubs/gallops.  Lungs: CTA anteriorly
   (pt unable to lean forward because of hip pain). [**Last Name (un) **]: NABS, soft, NT,
   ND. Extrem: no edema, left leg shorter than right, 2+ DP/PT pulses
   Skin:  no rashes/lesions/ecchymoses. Neuro:  A&Ox1, confused, pulling
   at gown, appears disoriented. Psych: agitated, anxious
   Labs / Radiology
   133 K/uL
   11.9 g/dL
   127 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.1 mEq/L
   40 mg/dL
   107 mEq/L
   140 mEq/L
   35.4 %
   5.2 K/uL
        [image002.jpg]
                            [**2141-10-25**]  03:49 AM
   WBC
   5.2
   Hct
   35.4
   Plt
   133
   Cr
   1.2
   TropT
   0.17
   Glucose
   127
   Other labs: PT / PTT / INR:13.2/26.3/1.1, CK / CKMB /
   Troponin-T:166/7/0.17, Differential-Neuts:79.4 %, Lymph:14.6 %,
   Mono:3.4 %, Eos:2.2 %, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   A+P: [**Age over 90 **]yo man with history of HTN and Afib not on anticoagulation who
   presented [**10-23**] s/p witnessed mechanical fall onto left hip.  Found to
   have left femoral neck fracture, admitted to medicine because of
   hypoxia.  In Afib with RVR starting in afternoon of [**10-24**] with
   worsening agitation and mental status changes, transferred to MICU for
   closer nursing support and rate control. This morning patient initially
   improved with rate control on diltiazem drip; however, became more
   agitated, heart rate increased.
   # Tachycardia/afib: possible etiologies include rebound tachycardia,
   but patient is receiving home doses of beta blockade as well as
   additional doses; other possible etiology is hypovolemia, possible
   given previous dose of Lasix, also patient oliguric with elevated
   creatinine, FENa <1%, slightly hypotensive which would be consistent
   with volume depletion, currently appears relatively euvolemic after 500
   mL fluid bolus (received 250mL, then half of second bolus of 500 mL
   after he removed his IV line). Tachycardia may be due to pain secondary
   to hip fracture, but patient is not reporting any pain; most likely due
   to agitation/delirium, as patient does appear delirious. Rate control
   attempted with diltiazem drip, rate did show some improvement with HR
   in 90s btwn [**4-3**] am, however patient became more agitated again and HR
   increased to 130s.
   -Haldol 2.5 mg IV as needed for agitation (reassess before each dosage)
   -Will avoid further fluids for now given possible pulmonary edema on
   CXR
   -Rate control with Diltiazem drip
   -Change home medication of Metoprolol to IV given that patient will
   most likely have difficulty with PO medications
   # Altered mental status: patient most likely has delirium secondary to
   multifactorial etiology: sundowning in hospital, pain secondary to hip
   fracture, hypoxemia, Afib. Urine C&S, blood cultures sent to rule out
   infectious causes of delirium. Patient received 2 doses of Haldol, one
   on admission to unit (2mg IV), 2.5 mg IV again as patient did not
   respond appropriately to initial Haldol dose, and another 2mg IV at
   6:30 am as patient continued to be agitated.  Given that patient does
   appear to have a component of sundowning as per report he was at
   baseline mental status prior to afternoon, may want to consider dose of
   oral Zyprexa this afternoon to prevent delirium in the evening if the
   patient clears during the day.
   -Haldol and 4 point restraints in acute setting (patient violent with
   staff on arrival), once acute period under better control will manage
   with delerium prevention
   -Call son first thing this morning to come in and see patient in an
   effort to redirect and improve delirium
   -Delirium prevention: frequent reorientation, removal of unnecessary
   procedures/medications, pain management, frequent family visits
   -Consider Zyprexa PO in afternoon (oral disintegrating tabs) to prevent
   sundowning
   # Hypoxemia: Concern for PE r/o with CT angio. Patient also thought to
   have pulmonary edema on initial CXR, given Lasix 10 mg IV x1 and
   oxygenation improved; however, Cr increasing, also oliguric (400 mL out
   yesterday) so may have a component of CHF. CT shows pulmonary edema and
   changes consistent with possible chronic aspiration as is demonstrated
   by tracheal secretions. Patient may be having fluid backup related to
   Afib given that he is thought to have pulmonary edema and also showing
   poor perfusion of his kidneys. Patient was covered for
   community-aquired PNA on the floor with Azithromycine and Ceftriaxone
   based on concern on CXR today for consolidation; however, he has had no
   fevers or leukocytosis.
   -ECHO to evaluate for CHF
   -check BNP with AM labs to compare to admission and further assess
   volume status
   -F/u fever curve, WBC count, if signs of infection will cover for
   aspiration pneumonia
   -consider changing diet to thickened liquids to prevent aspiration
   -F/u CXR this afternoon
   .
   #.ARF: Creatinine increased to 1.6 on [**10-24**] from 1 on admission; now
   improved after fluid challenge at 1.2.  Suggests prerenal etiology.
   Yesterday
s creatinine increase showed BUN/Cr> 20, which occurred in
   the setting of Lasix and IV contrast load with oliguria, ?urinary
   retention (bladder scan with 400mL residual).  Urine output [**10-24**]
   approximately 450 mL. Yesterday evening patient self-d/c
d Foley
   catheter, has been incontinent of a small amount of urine, do not have
   accurate I&Os. Possible etiologies include hypovolemia, CHF,
   contrast-induced nephropathy.
   -Patient recieved 500mL of fluid yesterday, creatinine improved with
   fluid challenge
   -Will wait for ECHO to assess cardiac status before more fluid given
   because of history of pulmonary edema
   -Patient also self d/c'd Foley catheter secondary to agitation. Low
   threshold for bladder scan if oliguric today, may need reinsertion of
   Foley catheter, also consider putting on condom catheter for now for
   more accurate measurement of I&Os
   .
   #.NSTEMI: Patient has had elevated troponins, [**10-24**] 3am 0.17, [**10-24**]
   5:15pm 0.25; [**10-25**] at 3:49 0.17, beginning to show downward trend. Most
   likely secondary to demand ischemia as EKG showing no focal specific
   changes.
   -Rate control with diltiazem (as above)
   .
   #.Left Hip Fracture: Patient seen by ortho in the ED, plan in place for
   hemiarthroplasty when medically stable. Discussed with ortho this
   morning, they are willing to take patient to OR as soon as this
   afternoon or tomorrow morning if patient is medically cleared.
   -No weight bearing left leg
   -Pain management with Tylenol
   -Calcium, vitamin D
   -Continue DVT prophylaxis with Heparin 5,000 u SQ TID
   .
   #Thrombocytopenia: Has had platelet count decreasing since arrival,
   admission ([**10-23**]) 182
 ([**10-24**]) 176
 ([**10-25**]) 133. Patient has not
   received enough fluids for this to be a dilutional effect. Only
   medication which may be responsible is Heparin.
   -Continue to monitor trend
   -If continues to decrease, will consider HIT and send HIT assay.
   FEN: Thickened liquids (NPO for now given that he may go for surgery
   later today).
   .
   PPX:
   -DVT ppx with Heparin 5,000 U SQ TID
   -Bowel regimen: Colace, Senna
   -Pain management with  Tylenol
   .
   ACCESS: PIV's
   .
   CODE STATUS: Full code, confirmed with son
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Name (NI) 4652**] [**Name (NI) 8953**] [**Telephone/Fax (1) 8954**]
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2141-10-24**] 11:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-10-27 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-10-26**] 11:30 AM
   -Patient having episodes of HR 130-145, per family report this is when
   pt became agitated when talking about Holocaust. Given fluid bolus 750
   ml, HCT sent which was stable. On dilt drip briefly, increased dose of
   diltiazem to 60mg PO QID which improved HR control.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-10-27**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 67 (66 - 138) bpm
   BP: 102/38(59) {96/37(54) - 150/82(106)} mmHg
   RR: 16 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,559 mL
                                                                    283 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,279 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                    864 mL
                                                                    185 mL
   Urine:
                                                                    864 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    695 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 564 (564 - 564) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 97%
   ABG: 7.44/32/113/22/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Gen: Slender elderly male lying in bed, NAD HEENT: MMM, O2 nasal
   cannula in place, sclera anicteric CV: irregular rhythm, regular rate,
   no M/R/G Lungs: CTA anteriorly Abdomen: NABS, soft, ND, NT  Extrem: no
   edema, 2+ DP/PT pulses b/l, dressing on hemiarthroplasty site C/D/I.
   Labs / Radiology
   133 K/uL
   9.5 g/dL
   107 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   33 mg/dL
   117 mEq/L
   146 mEq/L
   26.9 %
   4.7 K/uL
        [image002.jpg]
                            [**2141-10-25**]  03:49 AM
                            [**2141-10-25**]  05:42 PM
                            [**2141-10-25**]  07:01 PM
                            [**2141-10-25**]  10:23 PM
                            [**2141-10-26**]  04:48 AM
                            [**2141-10-26**]  05:18 AM
                            [**2141-10-26**]  09:36 AM
                            [**2141-10-26**]  04:58 PM
                            [**2141-10-27**]  04:00 AM
   WBC
   5.2
   8.3
   5.2
   4.7
   Hct
   35.4
   33.3
   30.3
   29.8
   26.9
   Plt
   133
   146
   133
   133
   Cr
   1.2
   1.0
   1.1
   1.1
   TropT
   0.17
   TCO2
   28
   22
   24
   22
   Glucose
   127
   104
   143
   145
   107
   Other labs: PT / PTT / INR:14.2/30.7/1.2, CK / CKMB /
   Troponin-T:166/7/0.17, Differential-Neuts:79.4 %, Lymph:14.6 %,
   Mono:3.4 %, Eos:2.2 %, Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   A+P: [**Age over 90 **]yo man with history of HTN and Afib not on anticoagulation who
   presented [**10-23**] s/p witnessed mechanical fall onto left hip.  Found to
   have left femoral neck fracture, admitted to medicine because of
   hypoxia.  In Afib with RVR starting in afternoon of [**10-24**] with
   worsening agitation and mental status changes, transferred to MICU for
   closer nursing support and rate control. Patient taken to OR on evening
   of [**10-25**] for hemiarthroplasty. Extubated yesterday [**10-26**]. On Tylenol
   for pain control; when given Fentanyl on [**10-25**] after OR patient had a
   significant drop in blood pressure.
   # Tachycardia/afib: Likely due to agitation; patient had another
   episode of tachycardia, which once again occurred when he became
   agitated. Patient also given fluid bolus and increased dosage of
   diltiazem, which together with redirection improved heart rate. Will
   continue Metoprolol, Diltiazem. Most important thing is trying to
   prevent agitation.
   -Continue Metoprolol 25 mg PO q8 hours
   -Diltiazem 60 mg PO QID
   # Altered mental status: Per nursing patient mostly clear during the
   day and overnight, easily redirected when agitated. Becomes agitated
   when talking about the Holocaust, which he keeps bringing up; redirect
   when discusses this. No evidence for infectious etiology of altered
   mental status, urine culture negative, blood cultures pending.
   -Delirium prevention: frequent reorientation, removal of unnecessary
   procedures/medications, pain management, frequent family visits
   # Hypoxemia. Concern for CHF: ECHO essentially normal, EF 55%, however
   BNP increased from 329 on admission to 6,235 on [**10-25**]. Patient
   extubated yesterday, tolerated well. Staturations good on nasal
   cannula; currently on 3LNC,  O2 sat  97%.
   -F/u fever curve, WBC count, if signs of infection will cover for
   aspiration pneumonia
   -Changed diet to thickened liquids to prevent aspiration
   .
   #.ARF: Possible etiologies include hypovolemia, CHF, contrast-induced
   nephropathy.  Given BNP, hypoperfusion secondary to CHF possible,
   however do not want to give more fluids out of concern for pulmonary
   edema. BUN and Cr relatively stable from yesterday: BUN 40 ([**10-25**] AM)
   31 ([**10-25**] PM)
 34 ([**10-26**] AM)
33 ([**10-27**] AM); Cr 1.2 ([**10-25**] AM)
 1.0
   ([**10-25**] PM)
 1.1 ([**10-26**] AM)
 1.1 ([**10-27**] AM). Made appropriate urine
   yesterday (945 mL).
   -Currently renal function appears stable, will continue to monitor
   #.NSTEMI: Patient has had elevated troponins, [**10-24**] 3am 0.17, [**10-24**]
   5:15pm 0.25; [**10-25**] at 3:49 0.17. Downward trend, EKG showed no focal
   specific changes, so most likely demand ischemia.
   -Rate control as above
   #.Left Hip Fracture: Patient s/p hemiarthroplasty [**10-25**]. Seen by  ortho
   this morning who feels that he is doing well, can bear weight as
   tolerated. When given fentanyl for pain control patient experienced a
   significant drop in his blood pressure. Patient currently reporting no
   pain.
   -Per ortho, patient can bear weight as tolerated.
   -Pain management with Tylenol
   -Calcium, vitamin D
   -Continue DVT prophylaxis with Lovenox 30 mg SQ q12 hours.
   #Anemia: Patient
s HCT decreased from 38.7 ([**10-23**]) to 35.4 ([**10-25**]) to
   30.3 ([**10-26**]) to 26.9 ([**10-27**]). Had 300 mL EBL during surgery. [**Month (only) 11**] be
   secondary to blood loss from surgery, also most likely has hematoma
   around hip. Will continue to monitor.
   -Maintain active T&S
   -Transfuse as needed for significant drop in HCT, HCT <21
   FEN: Kosher diet
   PPX:
   -DVT ppx with Lovenox 30 mg SQ q12
   -Bowel regimen: Colace, Senna
   -Pain management with  Tylenol
   .
   ACCESS: PIVs, A-line
   .
   CODE STATUS: Full code, confirmed with son
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Name (NI) 4652**] [**Name (NI) 8953**] [**Telephone/Fax (1) 8954**]
   .
   DISPOSITION: If ortho agrees, will try to discharge directly to rehab
   to minimize environmental changes and resultant confusion
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-25**] 07:07 PM
   20 Gauge - [**2141-10-25**] 07:07 PM
   18 Gauge - [**2141-10-25**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2141-10-25**] 07:07 PM
   20 Gauge - [**2141-10-25**] 07:07 PM
   18 Gauge - [**2141-10-25**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-10-27 09:36:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling much better. Apologizing for period of delusion
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2141-10-26**] 11:30 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**12-30**] Minimal
   Flowsheet Data as of  [**2141-10-27**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 67 (66 - 138) bpm
   BP: 102/38(59) {96/37(54) - 150/82(106)} mmHg
   RR: 16 (15 - 34) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,559 mL
                                                                    298 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  1,279 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                    864 mL
                                                                    185 mL
   Urine:
                                                                    864 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    695 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 97%
   ABG: 7.44/32/113/22/0
   PaO2 / FiO2: 226
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   133 K/uL
   107 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   33 mg/dL
   111 mEq/L
   141 mEq/L
   26.9 %
   4.7 K/uL
        [image002.jpg]
                            [**2141-10-25**]  03:49 AM
                            [**2141-10-25**]  05:42 PM
                            [**2141-10-25**]  07:01 PM
                            [**2141-10-25**]  10:23 PM
                            [**2141-10-26**]  04:48 AM
                            [**2141-10-26**]  05:18 AM
                            [**2141-10-26**]  09:36 AM
                            [**2141-10-26**]  04:58 PM
                            [**2141-10-27**]  04:00 AM
   WBC
   5.2
   8.3
   5.2
   4.7
   Hct
   35.4
   33.3
   30.3
   29.8
   26.9
   Plt
   133
   146
   133
   133
   Cr
   1.2
   1.0
   1.1
   1.1
   TropT
   0.17
   TCO2
   28
   22
   24
   22
   Glucose
   127
   104
   143
   145
   107
   Other labs: PT / PTT / INR:14.2/30.7/1.2, CK / CKMB /
   Troponin-T:166/7/0.17, Differential-Neuts:79.4 %, Lymph:14.6 %,
   Mono:3.4 %, Eos:2.2 %, Lactic Acid:1.0 mmol/L, Ca++:7.9 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   Doing much better. Heart rate has been well controlled on diltiazem and
   metoprolol. [**Month (only) 11**] be able to back off slowly on dosing as he recovers
   from acute illness. Hct has drifted down but c/w surgical losses and
   nothing to suggest GI loss.  Will need reassessment of meds over next
   several days but is now ready to start weight bearing.  Starting
   regular diet.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2141-10-25**] 07:07 PM
   20 Gauge - [**2141-10-25**] 07:07 PM
   18 Gauge - [**2141-10-25**] 07:08 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes